US07405210B2
5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (1-(S)-hydroxymethyl-2-oxo-2-phenylethyl)amide
To a solution of 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid [1-(S) -(tert-butyldimethylsilanyloxymethyl)-2-oxo-2-phenylethyl]amide (Preparation 101, 220 mg, 0.48 mmol) in THF (10 mL) was added acetic acid (60 μL) and tetrabutylammonium fluoride solution (1 ml, 1M in THF) at rt. After stirring for 3 h the reaction mixture was distributed between ethyl acetate (100 mL) and water (30 mL). The organic layer was separated, then washed with brine (50 ml), dried (MgSO4) and concentrated to a solid residue. Recrystallisation from THF gave the title compound.

reactant | 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid [1-(S) -(tert-butyldimethylsilanyloxymethyl)-2-oxo-2-phenylethyl]amide | 0.48 mmol, 220 mg | [Si](C)(C)(C(C)(C)C)OC[C@@H](C(C1=CC=CC=C1)=O)NC(=O)C1=CC=2C(=CN=C(C2)Cl)N1 | C23H28ClN3O3Si
reactant | acetic acid | 60 μL | C(C)(=O)O | C2H4O2
reactant | tetrabutylammonium fluoride | 1M, 1 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | water | 30 mL | O | H2O
product | 5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (1-(S)-hydroxymethyl-2-oxo-2-phenylethyl)amide | OC[C@@H](C(C1=CC=CC=C1)=O)NC(=O)C1=CC=2C(=CN=C(C2)Cl)N1 | C17H14ClN3O3
